US06727256B1
(4-Benzenesulphonyl)phenyl-(6-(5-(1,3-dioxolan-2-yl)-furan-2-yl)-7-fluoro-quinazolin-4-yl)-amine
Prepared according to Procedure B from (4-benzenesulphonyl)phenyl-(6-iodo-7-fluoro-quinazolin-4-yl)-amine hydrochloride and 5-(1,3-dioxolan-2-yl)-2-(tributylstannyl)furan. δ1H NMR (400 MHz, DMSO-d6) 10.49(s, 1H), 8.88(d, 1H), 8.63(s, 1H), 8.1(d, 2H), 7.95(m, 4H), 7.65(m, 4H), 6.97(m, 1H), 6.75(d, 1H), 6.01(s, 1H), 4.09(m, 2H), 3.97(m, 2H). ESI-MS m/z 516(M−1).

reactant | (4-benzenesulphonyl)phenyl-(6-iodo-7-fluoro-quinazolin-4-yl)-amine hydrochloride | Cl.C1=CC=C(C=C1)S(=O)(=O)N(C1=NC=NC2=CC(=C(C=C12)I)F)C1=CC=CC=C1
reactant | 5-(1,3-dioxolan-2-yl)-2-(tributylstannyl)furan | O1C(OCC1)C1=CC=C(O1)[Sn](CCCC)(CCCC)CCCC
product | (4-Benzenesulphonyl)phenyl-(6-(5-(1,3-dioxolan-2-yl)-furan-2-yl)-7-fluoro-quinazolin-4-yl)-amine | C1=CC=C(C=C1)S(=O)(=O)N(C1=NC=NC2=CC(=C(C=C12)C=1OC(=CC1)C1OCCO1)F)C1=CC=CC=C1 | C27H20FN3O5S
